US06545017B1
Tert-butyl 4-aminobutylcarbamate (60 g, 339 mmol) was slowly added to a mixture of 2,4-dichloro-5,6-dimethyl-3-nitropyridine (50 g, 226 mmol), anhydrous N,N-dimethylformamide (500 mL) and triethylamine (50 mL, 339 mmol). The reaction mixture was allowed to stir overnight and then it was concentrated under reduced pressure to provide an oil. The oil was dissolved in ethyl acetate and then washed with water. The organic layer was dried over magnesium sulfate and then concentrated under reduced pressure to provide a dark oil. This material was purified by column chromatography (silica gel eluting with 40/60 ethyl acetate/hexanes) to provide 64.5 g of tert-butyl 4-(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)butylcarbamate as a bright orange oil which solidified on standing.

reactant | Tert-butyl 4-aminobutylcarbamate | 339 mmol, 60 g | NCCCCNC(OC(C)(C)C)=O | C9H20N2O2
reactant | 2,4-dichloro-5,6-dimethyl-3-nitropyridine | 226 mmol, 50 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])Cl)C)C | C7H6Cl2N2O2
reactant | N,N-dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
reactant | triethylamine | 339 mmol, 50 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)butylcarbamate | 64.5 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])CCCCNC(OC(C)(C)C)=O)C)C | C16H24ClN3O4
